US06447998B1
3,6-Dimethyl-5iodo-2-pyridone
2-Amino-3,6-dimethyl-5-iodopyridine (4.01 g, 16.2 mmol) was dissolved in 0.5 M H2SO4 (70 mL) and the resulting solution cooled to 0° C. with stirring. A solution of sodium nitrite (3.3 g, 48.0 mmol) in H2O (5 mL) was added dropwise over 10 min. at 0° C. with vigorous stirring. After 1.5 h the cooling bath was removed and the mixture warmed to r.t. over 1 h. The solid was vacuum filtered, washed with H2O (50 mL), the solids air dried and then dried under vacuum for 18 h, yielding 3.9 g (15.7 mmol, 97%) of white solid.

reactant | 2-Amino-3,6-dimethyl-5-iodopyridine | 16.2 mmol, 4.01 g | NC1=NC(=C(C=C1C)I)C | C7H9IN2
reactant | sodium nitrite | 48.0 mmol, 3.3 g | N(=O)[O-].[Na+]
solvent | H2SO4 | 0.5 M, 70 mL | OS(=O)(=O)O | H2O4S
solvent | H2O | 5 mL | O | H2O
product | 3,6-Dimethyl-5iodo-2-pyridone | 15.7 mmol, 3.9 g, 97% | CC=1C(NC(=C(C1)I)C)=O | C7H8INO
